US09359336B2
To the solution of 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[b]thiophen-5-amine (825 mg, 3 mmol, 1 eq) in anhydrous tetrahydrofuran (15 mL) was added 4-chloro-3-(trifluoromethyl)phenyl isocyanate (678.3 mg, 1 eq) and the reaction solution was stirred at room temperature under nitrogen atmosphere overnight. The reaction was then diluted with ethyl acetate, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, and brine, and dried with anhydrous sodium sulfate. The upper clear solution was decanted and concentrated under reduced pressure. 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[b]thiophen-5-yl)urea was obtained as slightly brown colored foam in vacuo in the amount of 1.5 g which was used directly without further purification.

reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[b]thiophen-5-amine | 3 mmol, 825 mg, 1 eq | CC1(OB(OC1(C)C)C1=CC2=C(S1)C=CC(=C2)N)C | C14H18BNO2S
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | 678.3 mg, 1 eq | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[b]thiophen-5-yl)urea | ClC1=C(C=C(C=C1)NC(=O)NC1=CC2=C(SC(=C2)B2OC(C(O2)(C)C)(C)C)C=C1)C(F)(F)F | C22H21BClF3N2O3S
